US07541372B2
4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-benzonitrile
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (1.09 mg, 5.00 mmol) was converted using 4-cyanobenzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate=100:0 to 50:50, 490 mg, 30%) which was obtained as a white solid. MS: m/e=329.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 5.00 mmol, 1.09 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-cyanobenzoic acid | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
product | 4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-benzonitrile | 490 mg, 30% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C#N)C=C1 | C19H12N4O2
